US04783467
Methyl N-(2-amino-5-[2,4-dimethylimidazol-1-yl]benzyl)glycinate
A mixture of ethyl N-trifluoroacetyl-N-(2-amino-5-[2,4-dimethylimidazol-1-yl]benzyl)glycinate (1.4 g) and anhydrous sodium carbonate (0.74 g) in methanol (20 cm3) was heated under reflux for 3 hours. The cooled solution was evaporaed to dryness in vacuo and the residue was partitioned between chloroform (50 cm3) and water (10 cm3). The aqueous phase was re-extracted with chloroform (2×25 cm3) and the combined and dried (MgSO4) organic extracts were evaporated to give an oil which was chromatographed on silica (Merck "MK 60.9385" [Trade mark]), eluting with ethyl acetate:methanol, 9:1. Combination and evaporation of the appropriate fractions afforded the title compound as an oil (0.41 g), used directly.

reactant | ethyl N-trifluoroacetyl-N-(2-amino-5-[2,4-dimethylimidazol-1-yl]benzyl)glycinate | 1.4 g | FC(C(=O)N(CC(=O)OCC)CC1=C(C=CC(=C1)N1C(=NC(=C1)C)C)N)(F)F | C18H21F3N4O3
reactant | sodium carbonate | 0.74 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | methanol | 20 cm3 | CO | CH4O
product | Methyl N-(2-amino-5-[2,4-dimethylimidazol-1-yl]benzyl)glycinate | 0.41 g | NC1=C(CNCC(=O)OC)C=C(C=C1)N1C(=NC(=C1)C)C | C15H20N4O2
